US08530670B2
1-(1H-Benzo[d]imidazol-5-yl)-4-(4,4-difluoropiperidin-1-yl)-5-(4-morpholinophenyl)-1H-pyrrol-2(5H)-one (E32)
The compound was synthesized starting from 1-(1H-benzo[d]imidazol-5-yl)-4-hydroxy-5-(4-morpholinophenyl)-1H-pyrrol-2(5H)-one (1.0 g, 2.65 mmol), 4,4-difluoropiperidine hydrochloride (0.800 g, 5.1 mmol) and K2CO3 (0.73 g, 5.3 mmol) in toluene/DMF (2:1; 15 ml) according to method 8a described above.

reactant | 1-(1H-benzo[d]imidazol-5-yl)-4-hydroxy-5-(4-morpholinophenyl)-1H-pyrrol-2(5H)-one | 2.65 mmol, 1.0 g | N1C=NC2=C1C=CC(=C2)N2C(C=C(C2C2=CC=C(C=C2)N2CCOCC2)O)=O | C21H20N4O3
reactant | 4,4-difluoropiperidine hydrochloride | 5.1 mmol, 0.800 g | Cl.FC1(CCNCC1)F
reactant | K2CO3 | 5.3 mmol, 0.73 g | C(=O)([O-])[O-].[K+].[K+]
solvent | toluene DMF | 15 ml | C1(=CC=CC=C1)C.CN(C)C=O
product | 1-(1H-Benzo[d]imidazol-5-yl)-4-(4,4-difluoropiperidin-1-yl)-5-(4-morpholinophenyl)-1H-pyrrol-2(5H)-one | N1C=NC2=C1C=CC(=C2)N2C(C=C(C2C2=CC=C(C=C2)N2CCOCC2)N2CCC(CC2)(F)F)=O | C26H27F2N5O2
